US05199969
9.4 g of sodium methylate and 0.2 g of potassium iodide are added to a solution of 26.6 g of 1-(1,2,4-triazol-1-yl)-1-chloro-2-(2,4-dichlorophenyl)-butane in 200 ml of methanol. The reaction mixture is refluxed for 48 hours, after which 100 ml of water are added to the solution and the mixture is extracted several times with methyl tert-butyl ether. The organic phase isolated is washed twice with water, then dried over sodium sulfate and evaporated down and the remaining residue is purified by chromatography over silica gel (9:1 ethyl acetate/n-hexane). 6.2 g (24%) of 1-(1,2,4-triazol-1-yl)-1-methoxy-2-(2,4-dichlorophenyl)-butane are obtained as a 1:1 diastereomer mixture [compound No. 1).

reactant | sodium methylate | 9.4 g | C[O-].[Na+]
reactant | 1-(1,2,4-triazol-1-yl)-1-chloro-2-(2,4-dichlorophenyl)-butane | 26.6 g | N1(N=CN=C1)C(C(CC)C1=C(C=C(C=C1)Cl)Cl)Cl | C12H12Cl3N3
reactant | water | 100 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
catalyst | potassium iodide | 0.2 g | [I-].[K+]
product | 1-(1,2,4-triazol-1-yl)-1-methoxy-2-(2,4-dichlorophenyl)-butane | 6.2 g, 24% | N1(N=CN=C1)C(C(CC)C1=C(C=C(C=C1)Cl)Cl)OC | C13H15Cl2N3O
